US08372837B2
To a stirring solution of tert-butyl 4-(3-cyano-1-(6-cyanopyridin-3-yl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate (22 mg, 0.050 mmol) in DCM (3 mL) at room temperature under argon was added 4 M HCl in dioxane (0.375 mL, 1.5 mmol). The reaction mixture was stirred at room temperature overnight. Et2O (10 mL) was added to the reaction mixture. The solid product was collected by filtration and further washed with ether (2 mL×2). After drying under vacuum for 2 hours, 17.3 mg (100%) of 1-(6-cyanopyridin-3-yl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carbonitrile HCl salt was obtained as an off-white solid. MS (ESI) 323 (M+H).

reactant | tert-butyl 4-(3-cyano-1-(6-cyanopyridin-3-yl)-6-oxo-1,6-dihydropyridazin-4-yloxy)piperidine-1-carboxylate | 0.050 mmol, 22 mg | C(#N)C1=NN(C(C=C1OC1CCN(CC1)C(=O)OC(C)(C)C)=O)C=1C=NC(=CC1)C#N | C21H22N6O4
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.5 mmol, 0.375 mL | O1CCOCC1 | C4H8O2
reactant | Et2O | 10 mL | CCOCC | C4H10O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-cyanopyridin-3-yl)-6-oxo-4-(piperidin-4-yloxy)-1,6-dihydropyridazine-3-carbonitrile HCl salt | 17.3 mg, 100% | Cl.C(#N)C1=CC=C(C=N1)N1N=C(C(=CC1=O)OC1CCNCC1)C#N | InChI=1S/C16H14N6O2.ClH/c17-8-11-1-2-12(10-20-11)22-16(23)7-15(14(9-18)21-22)24-13-3-5-19-6-4-13;/h1-2,7,10,13,19H,3-6H2;1H
